US08466181B2
c) 1-(2-Fluorophenyl)-4-methyl-1H-1,2,3-triazole
As described for example 31c, 1-(1-(2-fluorophenyl)-4-methyl-4,5-dihydro-1H-1,2,3-triazol-5-yl)piperidine (1.32 g, 5.32 mmol), instead of 1-[3-(4-fluoro-phenyl)-5-methyl-4,5-dihydro-3H-[1,2,3]triazol-4-yl]-piperidine, was converted to the title compound (616 mg, 65%) which was obtained as a colorless liquid. MS: m/e=178.1 [M+H]+.

reactant | 1-(1-(2-fluorophenyl)-4-methyl-4,5-dihydro-1H-1,2,3-triazol-5-yl)piperidine | 5.32 mmol, 1.32 g | FC1=C(C=CC=C1)N1N=NC(C1N1CCCCC1)C | C14H19FN4
reactant | 1-[3-(4-fluoro-phenyl)-5-methyl-4,5-dihydro-3H-[1,2,3]triazol-4-yl]-piperidine | FC1=CC=C(C=C1)N1N=NC(C1N1CCCCC1)C | C14H19FN4
product | 1-(2-Fluorophenyl)-4-methyl-1H-1,2,3-triazole | 616 mg, 65% | FC1=C(C=CC=C1)N1N=NC(=C1)C | C9H8FN3
